US05221685
(10) Synthesis of 2-(3,4-dichlorobenzoylamino)-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-2-thiazoline (Compound 10)
In toluene (10 ml) were dissolved 2-imino-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-1,3-thiazolidine (1.1 g) and triethylamine (1.0 ml), and 3,4-dichlorobenzoyl chloride (1.0 g) was gradually added thereto and the mixture was stirred at room temperature for 3 hours.

reactant | 2-imino-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-1,3-thiazolidine | 1.1 g | N=C1SC(C(N1)(C(F)(F)F)C(F)(F)F)=C(C(F)(F)F)F | C7H2F10N2S
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4-dichlorobenzoyl chloride | 1.0 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3,4-dichlorobenzoylamino)-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-2-thiazoline | ClC=1C=C(C(=O)NC=2SC(C(N2)(C(F)(F)F)C(F)(F)F)=C(C(F)(F)F)F)C=CC1Cl | C14H4Cl2F10N2OS
